US07291643B2
N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]butane-1-sulfonamide
The title compound was prepared according to general procedure for sulfonylation of 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile using butane sulfonyl chloride (72 μL, 0.55 mmol) to provide N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]butane-1-sulfonamide (0.026 g).

reactant | 5-(4-aminophenyl)-1-methyl-1H-pyrrole-2-carbonitrile | NC1=CC=C(C=C1)C1=CC=C(N1C)C#N | C12H11N3
reactant | butane sulfonyl chloride | 0.55 mmol, 72 μL | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
product | N-[4-(5-cyano-1-methyl-1H-pyrrol-2-yl)phenyl]butane-1-sulfonamide | 0.026 g | C(#N)C1=CC=C(N1C)C1=CC=C(C=C1)NS(=O)(=O)CCCC | C16H19N3O2S
